US07317125B2
Preparation of 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide
A solution of 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (202 mg, 0.42 mmol) in DME (5 ml)/2M Na2CO3 (0.731 ml, 1.46 mmol) was with 2-trifluoromethoxyphenylboronic acid (129 mg, 0.63 mmol) and Pd[PPh3]4 (96.5 mg, 0.084 mmol) in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 45-60% ethyl acetate/hexane gradient to afford the product as a solid (129 mg, 55%). MS m/e 565.55 (M+H+)

reactant | 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.42 mmol, 202 mg | BrC1=C(OCC(=O)N(NC(C2=CC=C(C=C2)OCCOC)=O)C(C)C)C=CC(=C1)F | C21H24BrFN2O5
reactant | Na2CO3 | 1.46 mmol, 2M, 0.731 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-trifluoromethoxyphenylboronic acid | 0.63 mmol, 129 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide | 129 mg, 55% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)N(NC(C1=CC=C(C=C1)OCCOC)=O)C(C)C | C28H28F4N2O6
